US06242600B1
(S,S)-[4-[2-Hydroxy-4-oxo-4-[4-(pyridin-4-yl)piperazin-1-yl]butyryl]-3-methoxycarbonylmethyl-2-oxopiperazin-1-yl]acetic Acid
To a suspension of (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid tert-butyl ester (0.29 g) and 2-hydroxy-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)-butanoic acid (0.30 g) in dimethylformamide (15 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.30 g) and the solution was stirred for 24 hours at room temperature. The solution was concentrated to remove dimethylformamide and the residue was purified by means of CHP-20 column chromatography (H2O→30% acetonitrile aqueous solution). To the produced tert-butyl ester derivative (0.20 g) was added trifluoroacetic acid (6 ml) and the solution was stirred for 1 hour at room temperature. The reaction solution was concentrated and the residue was dissolved in water (10 ml), which was purified by means of CHP-20 column chromatography (H2O→5% acetonitrile aqueous solution). The objected fraction was concentrated and subjected to lyophilization to give the titled compound(0.08 g) as a white amorphous powdery product.

reactant | (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid tert-butyl ester | 0.29 g | C(C)(C)(C)OC(CN1C([C@@H](NCC1)CC(=O)OC)=O)=O | C13H22N2O5
reactant | 2-hydroxy-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)-butanoic acid | 0.30 g | OC(C(=O)O)CC(N1CCN(CC1)C1=CC=NC=C1)=O | C13H17N3O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.30 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S,S)-[4-[2-Hydroxy-4-oxo-4-[4-(pyridin-4-yl)piperazin-1-yl]butyryl]-3-methoxycarbonylmethyl-2-oxopiperazin-1-yl]acetic Acid | 0.08 g | O[C@H](C(=O)N1[C@H](C(N(CC1)CC(=O)O)=O)CC(=O)OC)CC(N1CCN(CC1)C1=CC=NC=C1)=O | C22H29N5O8
